US08975254B2
a) 5-(4-methylpyridin-3-yl)thiophene-2-carboxylic acid
Ethyl 5-(4-methylpyridin-3-yl)thiophene-2-carboxylate (0.200 g, 0.809 mmol) was dissolved in ethanol (5 ml). 2 M sodium hydroxide solution (0.809 ml, 1.617 mmol) was added and the mixture was stirred at RT overnight. Ethanol was evaporated and water (5 ml) was added. The product was precipitated during the addition of 2 M HCl. The product was filtered and dried to give 98 mg. 1H-NMR (400 MHz; d6-DMSO): δ 2.43 (s, 3H), 7.38 (d, 1H), 7.39 (d, 1H), 7.77 (d, 1H), 8.46 (d, 1H), 8.59 (s, 1H).

reactant | Ethyl 5-(4-methylpyridin-3-yl)thiophene-2-carboxylate | 0.809 mmol, 0.200 g | CC1=C(C=NC=C1)C1=CC=C(S1)C(=O)OCC | C13H13NO2S
reactant | sodium hydroxide | 1.617 mmol, 2 M, 0.809 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(4-methylpyridin-3-yl)thiophene-2-carboxylic acid | CC1=C(C=NC=C1)C1=CC=C(S1)C(=O)O | C11H9NO2S
